US08471005B2
(3H-Benzimidazol-5-yl)-[7-(4-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine
Following the synthetic and purification procedures described in Example 1293d, 2-methanesulfinyl-7-(4-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (75 mg, 0.22 mmol) was coupled with 3H-benzimidazol-5-ylamine (51 mg, 0.38 mmol) at 105° C. in a for 86 h to afford the title compound. Yield of TFA salt: 46 mg (40%) of brown powder; LC/MS: 405 (M+H); HPLC: 90% pure, RT=2.14 min; 1H NMR: (DMSO, δ) 9.96 (s, 1H), 9.48 (s, 1H), 9.13 (s, 1H), 8.51 (d, J=8.6, 2H), 8.18 (s, 1H), 8.07 (d, J=8.6, 2H), 7.86 (m, 2H), 7.42 (d, J=4.8, 1H), 7.07 (d, J=4.8, 1H), 3.28 (s, 3H)-benzimidazole NH presumably underwent rapid exchange with residual water.

reactant | 2-methanesulfinyl-7-(4-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.22 mmol, 75 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C2=CC=C(C=C2)S(=O)(=O)C | C14H13N3O3S2
reactant | 3H-benzimidazol-5-ylamine | 0.38 mmol, 51 mg | N1=CNC2=C1C=CC(=C2)N | C7H7N3
product | (3H-Benzimidazol-5-yl)-[7-(4-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine | N1=CNC2=C1C=CC(=C2)NC2=NN1C(C=N2)=CC=C1C1=CC=C(C=C1)S(=O)(=O)C | C20H16N6O2S
